Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hyponatremia 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ who has presented to her primary care physician
earlier today for follow-up of a recent GI illness primarily
including 2 days of vomiting who was found to have hyponatremia
on a lab check to 127.

Her illness started over a week ago when she described onset of
low back pain after moving a box and she was prescribed
cyclobenzaprine and ibuprofen which he took which relieved her
low back pain.  She then experienced nausea and was assessed at
urgent care with the CT scan performed showing no acute 
abdominal
pathology.  Then 6 days prior to today she developed nausea and
vomiting that lasted 3 days.  She describes recovery of her
appetite but that she is only been eating about a quarter of the
usual amount of food for her.

She then presented to the primary care office today and was 
found
to have hyponatremia and was referred to the emergency 
department
at ___ where her sodium was 128 and on recheck it was 
129
and the urine sodium was less than 20 she received 1 L of 
saline.
And nephrology was contacted who agreed with initial management
with IV fluids and not continuing further administration of IV
fluids and to avoid overcorrection by more than 6 mEq in 24
hours.

Any other notable finding that the patient mentions his 
increased
blurriness with close reading vision noticeable when she is 
using
the computer monitor or iPhone screen.

she is not experiencing any pain currently she had a normal 
bowel
movement yesterday and her GI illness was not coinciding with 
any
abdominal pain or diarrhea or sick contacts or fever.

ROS:
Negative for 10 point review of systems unless mentioned in HPI

 
Past Medical History:
#Stage I right breast cancer managed with lumpectomy and 
radiation therapy ___ years ago
#Cardiomyopathy EF not currently known described that she 
follows
with a cardiologist annually and has had stable echo findings at
that time

 
Social History:
___
Family History:
Hypertension

 
Physical Exam:
Admission Physical exam
98.1 pulse 88 blood pressure 121/85 sat 98%
This is a well-appearing adult female who came easily ambulate
from the stretcher to her hospital bed
She is not confused her speech is fluent
Her mucous membranes are moist
 breath sounds are clear
Regular S1 and S2 appreciated
Abdomen soft nontender nondistended
No peripheral edema
Not confused

Discharge Exam:
Physical exam
___ ___ Temp: 98.4 PO BP: 151/96 L Sitting HR: 100 RR: 18
O2 sat: 97% O2 delivery: RA 
General:  in NAD
HEENT:  OP moist, no LAD, thyroid not palpable to me.
Resp CTA B, no rales, wheezes
CV RRR without murmurs
GI soft, NT, ND, NABS
MS:  no edema
Back without significant tenderness
Neuro:  alert/oriented X3, moving all extremities.  able to
approximate and read with glasses.  Otherwise normal neurologic
exam

 
Pertinent Results:
Admission Labs
___ 02:18PM   PLT COUNT-216
___ 02:18PM   NEUTS-68.6 LYMPHS-18.2* MONOS-11.8 EOS-0.5* 
BASOS-0.3 IM ___ AbsNeut-6.05 AbsLymp-1.60 AbsMono-1.04* 
AbsEos-0.04 AbsBaso-0.03
___ 02:18PM   WBC-8.8 RBC-4.73 HGB-14.9 HCT-41.2 MCV-87 
MCH-31.5 MCHC-36.2 RDW-11.5 RDWSD-36.8
___ 02:18PM   OSMOLAL-259*
___ 02:18PM   estGFR-Using this
___ 02:18PM   GLUCOSE-97 UREA N-11 CREAT-0.8 SODIUM-128* 
POTASSIUM-3.8 CHLORIDE-90* TOTAL CO2-23 ANION GAP-15
___ 02:25PM   NA+-127*
___ 02:25PM   ___ COMMENTS-GREEN TOP
___ 03:30PM URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 03:30PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:30PM URINE  UCG-NEGATIVE OSMOLAL-248
___ 03:30PM URINE  HOURS-RANDOM SODIUM-<20 POTASSIUM-10 
CHLORIDE-<20
___ 07:00PM   OSMOLAL-263*
___ 07:00PM   GLUCOSE-94 UREA N-9 CREAT-0.6 SODIUM-128* 
POTASSIUM-3.7 CHLORIDE-93* TOTAL CO2-22 ANION GAP-13
___ 07:05PM   NA+-129*
___ 09:01PM   NA+-129*
___ 11:09PM   NA+-131*
___ 11:09PM   ___ COMMENTS-GREEN TOP
___ 11:25PM URINE  OSMOLAL-103
___ 11:25PM URINE  HOURS-RANDOM SODIUM-<20 POTASSIUM-3 
CHLORIDE-<20

Discharge Labs
 
Brief Hospital Course:
___ woman with a past medical history of hypertension, 
recent back pain treated with cyclobenzaprine and ibuprofen, and 
an acute self resolving GI illness leading to significant nausea 
and vomiting, who presented with hyponatremia.

Acute issues:

#Mixed-etiology hyponatremia
-the patient appeared to have components of both hypovolemic and 
euvolemic hyponatremia, with hypothyroidism and likely SIADH 
from pain and stress of hospitalization and illness.
-cortisol was normal
-TSH was elevated, see below
-ultimately her sodium improved with both increased solute 
intake and modest fluid restriction. 
- advised to maintain 1500 cc - 2L fluid restriction and repeat 
labs within the week.

#Hypothyroidism
-TSH 23, T4 and T3 normal.  Likely consistent with subclinical 
hypothyroidism.
-Consulted Endocrinology who recommended treatment with 
levothyroxine 50 mcg and post discharge repeat tsh.
-anti TPO pending.

#Blurry vision
-initially suspected to be due to the fluid shifts associated 
with hyponatremia
-ultimately improved, but not fully resolved by the time of 
discharge.  Formal eye exam recommended, and if not resolved, 
MRI to evaluate for intracerebral cause of both hypothyroidism 
and visual changes.

#Recent GI illness w/N/V
-Symptoms resolved with conservative treatment.
-counseled to use gatorade or similar with any future episodes

Chronic issues:

#Recent low back pain
-was receiving cyclobenzaprine and ibuprofen, but used 
acetaminophen in the hospital to avoid complicating the 
diagnosis and management of hyponatremia

#Stage I right breast cancer managed with lumpectomy, XRT ___ 
years ago
-Continued home tamoxifen

#Cardiomyopathy
-EF not currently known described that she follows with a 
cardiologist annually and has had stable echo findings at that 
time
-Plan nonurgent outpatient follow-up

#Hypertension
-Continued enalapril

#Anxiety
-Continued lorazepam 0.5 mg twice daily as needed

Transitional issues:
blurry vision:  optometry for eye exam this week if not 
resolved.
hyponatremia: repeat labs within week of dc.  1.5-2L fluid 
restriction for now.
Hypothyrodism: repeat TSH in 1 week. Endocrinology follow up.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamoxifen Citrate 20 mg PO DAILY 
2. Enalapril Maleate 5 mg PO DAILY 
3. LORazepam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine 50 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Enalapril Maleate 5 mg PO DAILY  
4.  LORazepam 0.5 mg PO BID:PRN anxiety  
5.  Tamoxifen Citrate 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Mixed-etiology hyponatremia
#Hypothyroidism
 
Discharge Condition:
Tolerating diet, sodium 135.
 
Discharge Instructions:
Why were you admitted? 
Your sodium was low and you were feeling nauseated and with pain 
as well as with the blurry vision.

What did we find?
We found that your sodium was probably from several factors.
You may have a low thyroid which can cause low sodium.
It is also possible that the pain and nausea made your sodium 
low.

What should you do at home?  
Start the thyroid replacement medication.  Make sure you do not 
take it with any other medications or food.
See your primary care doctor in the next few days for repeat 
sodium.  Also to have your vision rechecked.
If your vision is not better, you should see an optometrist and 
possibly an MRI of your brain.
You will need to see an endocrinologist about your thyroid.  He 
will also need to have your TSH rechecked in 1 week.
Maintain a 1.5-2 L fluid intake.
 
Followup Instructions:
___